US07700589B2
57c) 4-(5-oxo-3-phenyl-4,5-dihydro-[1,2,4]triazol-1-yl)-piperidine-1-carboxylic acid-[(R)-2-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-2-oxo-1-(5,6,7,8-tetrahydro-naphthalen-2-ylmethyl)-ethyl]-amide
Prepared analogously to Example 54c) from 300 mg (0.61 mmol) (R)-2-{[4-(5-oxo-3-phenyl-4,5-dihydro-[1,2,4]triazol-1-yl)-piperidine-1-carbonyl]-amino}-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionic acid and 120 mg (0.66 mmol) 1-(1-methyl-piperidin-4-yl)-piperazine.

reactant | (R)-2-{[4-(5-oxo-3-phenyl-4,5-dihydro-[1,2,4]triazol-1-yl)-piperidine-1-carbonyl]-amino}-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionic acid | 0.61 mmol, 300 mg | O=C1NC(=NN1C1CCN(CC1)C(=O)N[C@@H](C(=O)O)CC1=CC=2CCCCC2C=C1)C1=CC=CC=C1 | C27H31N5O4
reactant | 1-(1-methyl-piperidin-4-yl)-piperazine | 0.66 mmol, 120 mg | CN1CCC(CC1)N1CCNCC1 | C10H21N3
product | 4-(5-oxo-3-phenyl-4,5-dihydro-[1,2,4]triazol-1-yl)-piperidine-1-carboxylic acid-[(R)-2-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-2-oxo-1-(5,6,7,8-tetrahydro-naphthalen-2-ylmethyl)-ethyl]-amide | CN1CCC(CC1)N1CCN(CC1)C([C@@H](CC1=CC=2CCCCC2C=C1)NC(=O)N1CCC(CC1)N1N=C(NC1=O)C1=CC=CC=C1)=O | C37H50N8O3
